US07544835B2
3-{3-[2-(2,4-Dichlorophenoxy)ethoxy]phenyl}-2-ethylpropanoic acid
Using 1-(2-bromoethoxy)-2,4-dichlorobenzene and ethyl 3-(3-hydroxy-4-methoxyphenyl)-2-ethylpropanoate, the title compound was obtained in the same manner as described in Example 33c).

reactant | 1-(2-bromoethoxy)-2,4-dichlorobenzene | BrCCOC1=C(C=C(C=C1)Cl)Cl | C8H7BrCl2O
reactant | ethyl 3-(3-hydroxy-4-methoxyphenyl)-2-ethylpropanoate | OC=1C=C(C=CC1OC)CC(C(=O)OCC)CC | C14H20O4
product | 3-{3-[2-(2,4-Dichlorophenoxy)ethoxy]phenyl}-2-ethylpropanoic acid | ClC1=C(OCCOC=2C=C(C=CC2)CC(C(=O)O)CC)C=CC(=C1)Cl | C19H20Cl2O4
